US05302601
3,4-Diamino-2-picoline (XXXI, Scheme C):
4-Amino-3-nitro-2-picoline (5.5 g, 0.036 mole) was hydrogenated in methanol (250 mL) at 5 psi and 25° for 1.25 hr using Raney Nickel as catalyst. The catalyst was filtered, the filtrate stripped in vacuo and the residue triturated with cyclohexane to give a solid. The solid was filtered and air dried to give 4.0 g (88%) of the title compound, m. pt. 170-171°.

reactant | 4-Amino-3-nitro-2-picoline | 0.036 mole, 5.5 g | NC1=C(C(=NC=C1)C)[N+](=O)[O-] | C6H7N3O2
solvent | methanol | 250 mL | CO | CH4O
catalyst | Raney Nickel | [Ni] | Ni
product | 3,4-Diamino-2-picoline | 4.0 g, 88% | NC=1C(=NC=CC1N)C | C6H9N3
